US03984467
1-(4-Chlorophenyl)-3-(pentanimidoyl)-2thiourea
A stirred mixture, prepared by reacting 4.6 g. sodium with 300 ml. dry acetone at room temperature was cooled to 5°C. and 27.3 g. valeramidine hydrochloride was added in one portion. After 20 minutes there was added dropwise during thirty minutes, a solution of 33.8 g. 4-chlorophenyl isothiocyanate in 200 ml. dry acetone while the temperature was maintained at 5° to 10°C. The mixture was stirred for 18 hours at room temperature, filtered and the filtrate was evaporated to dryness under reduced pressure. A solution of the residue in 300 ml. ether was chilled and treated with ethereal hydrogen chloride until acidic and the resulting solid was filtered to give, after recrystallization from acetonitrile 51.1 g. 1-(4-chlorophenyl)-3-(pentanimidoyl)-2-thiourea hydrochloride; m.p. 164°-166°C.

reactant | sodium | [Na] | Na
reactant | valeramidine hydrochloride | Cl.C(CCCC)(=N)N
reactant | 4-chlorophenyl isothiocyanate | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Chlorophenyl)-3-(pentanimidoyl)-2thiourea | ClC1=CC=C(C=C1)NC(=S)NC(CCCC)=N | C12H16ClN3S
